US04329347
6-(4-Cyclohexylmercapto-butoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 1 from cyclohexyl-mercaptan and 6-(4-chloro-butoxy)-3,4-dihydro-carbostyril

reactant | cyclohexyl-mercaptan | C1(CCCCC1)S | C6H12S
reactant | 6-(4-chloro-butoxy)-3,4-dihydro-carbostyril | ClCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16ClNO2
product | 6-(4-Cyclohexylmercapto-butoxy)-3,4-dihydro-carbostyril | C1(CCCCC1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H27NO2S
